US08084485B2
To a stirred solution of 6-((S)-2-(((2S,5R)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazin-2-yl)methyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole (300 mg, 0.62 mmol) in CH3CN (5 mL) was added 1 N aq HCl (5 mL) at rt. The mixture was stirred for 5 h, poured into ice-cold, satd aq NaHCO3 and extracted with CH2Cl2 (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated to give (2S,4S)-ethyl 2-amino-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate (220 mg, 95%).

reactant | 6-((S)-2-(((2S,5R)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazin-2-yl)methyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole | 0.62 mmol, 300 mg | C(C)OC=1[C@@H](N=C([C@H](N1)C(C)C)OCC)C[C@H](CC1=CC=C2C=NN(C2=C1)CCCOC)C(C)C | C28H44N4O3
reactant | HCl | 1 N, 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | (2S,4S)-ethyl 2-amino-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate | 220 mg, 95% | N[C@H](C(=O)OCC)C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC | C21H33N3O3
